US07566736B2
0.113 g of Pd/C (10%) is added to a solution of 0.15 g of 3-(4-nitrophenyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxamide in 10 ml of methanol. After stirring at 22° C. for 3.5 hours under 2 bar of hydrogen, the reaction medium is filtered over silica gel and then concentrated under reduced pressure, to give 0.1 g of 3-(4-aminophenyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxamide, the characteristics of which are as follows:

reactant | 3-(4-nitrophenyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxamide | 0.15 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(NC=2C1=NC=CC2)C(=O)N | C14H10N4O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 ml | CO | CH4O
catalyst | Pd/C | 0.113 g | [Pd] | Pd
product | 3-(4-aminophenyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxamide | 0.1 g | NC1=CC=C(C=C1)C1=C(NC=2C1=NC=CC2)C(=O)N | C14H12N4O
